US04036629
FUROIC ACID, 3-(3,4-EPOXY-4-METHYLCYCLOHEXYL)BUTYL ESTER
The procedure of Example 1 was followed for the epoxidation of 5.2g (0.02 mole) of furoic acid, 3-(4-methyl-3-cyclohexenyl)butyl ester using 4.2g (0.02 mole) of 85% m-chloroperbenzoic acid in 150 ml of methylene chloride. Obtained following distillation was 3.7g of pure furoic acid, 3-(3,4-epoxy-4-methylcyclohexyl)butyl ester as a clear, colorless liquid with a boiling point of 156°-161° C. (0.10mm). (See Table I).

reactant | furoic acid, 3-(4-methyl-3-cyclohexenyl)butyl ester | 0.02 mole, 5.2g | O1C(=CC=C1)C(=O)OCCC(C)C1CC=C(CC1)C | C16H22O3
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | FUROIC ACID, 3-(3,4-EPOXY-4-METHYLCYCLOHEXYL)BUTYL ESTER | O1C(=CC=C1)C(=O)OCCC(C)C1CC2C(CC1)(C)O2 | C16H22O4
